US07300951B2
To 2-methyl-4,4,4-trifluoro-1-butanol (7.5 g, 53 mmol) in methylene chloride (CH2Cl2) (125 mL) at 0° C. was added Dess-Martin periodinane (26.5 g, 63.3 mmol). The reaction mixture was warmed to 25° C. and stirred for 20 min. To this mixture was added diethyl ether (Et2O-200 mL) followed by a solution of Na2S2O3 (29.0 g, 185 mmol) in a saturated aqueous solution of sodium bicarbonate (NaHCO3) (200 mL) and 100 mL of water. The milky white mixture was stirred until both phases were homogeneous. The phases were separated and the organic extract was washed with saturated aqueous NaHCO3 (25 mL) and aqueous 1 N Na2S2O3 (25 mL) and dried using magnesium sulfate (MgSO4). Solvents were removed by distillation at atmospheric pressure to give 2-methyl-4,4,4-trifluorobutanal (6.5 g, 88%). 1H nuclear magnetic resonance (NMR) spectrum matched that which was reported in the literature (J. Fluorine Chem. 36: 163–170 (1987).

reactant | 2-methyl-4,4,4-trifluoro-1-butanol | 53 mmol, 7.5 g | CC(CO)CC(F)(F)F | C5H9F3O
reactant | Dess-Martin periodinane | 63.3 mmol, 26.5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 185 mmol, 29.0 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-methyl-4,4,4-trifluorobutanal | 6.5 g, 88% | CC(C=O)CC(F)(F)F | C5H7F3O
